US06677368B2
To a solution of (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (664 mg) in DCM (10 mL) at 0° C. was added oxalyl chloride (4.7 mmol), followed by one drop of DMF. After stirring at rt for 2 hours, the solvent was concentrated to give S)-2-chlorocarbonyl-pyrrolidine-1-carboxylic acid tert-butyl ester. To a solution of 1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine (350 mg, 2.6 mmol) was added TEA (362μL) and (S)-2-chlorocarbonyl-pyrrolidine-1-carboxylic acid tert-butyl ester (dissolved in 10 mL of DCM). After stirring at rt for overnight, the reaction was diluted with DCM, washed with NaHCO3, brine, dried and concentrated. The residue was purified on a silica gel column to give 410 mg of (S)-2-(5,6,7,8-tetrahydro-1H-pyrrolo[3,2-b]azepine-4-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a light brown liquid.

reactant | 1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine | 2.6 mmol, 350 mg | N1C=CC=2NCCCCC21 | C8H12N2
reactant | (S)-2-chlorocarbonyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 10 mL | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)Cl | C10H16ClNO3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-(5,6,7,8-tetrahydro-1H-pyrrolo[3,2-b]azepine-4-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 410 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1C2=C(CCCC1)NC=C2 | C18H27N3O3
